data/oMe_Silver.jsonl
{"reaction_id": "NR-244_1-C2CCCCC2_4-c2ccc(OC)cc2","level": "easy","name": "Stork Enamine Synthesis","reactants_smiles": ["C(C2CCCCC2)(=C)N1CCCC1","C(c2ccc(OC)cc2)Br"],"products_smiles": ["C(=O)(C2CCCCC2)CC(c2ccc(OC)cc2)"],"conditions": "H2O","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C2CCCCC2)(=[N+]1CCCC1)CC(c2ccc(OC)cc2)","step_weight": 0,"rationale": "The enamine's electron-rich α-carbon attacks the electrophilic carbon in the alkyl halide via SN2, favored by the good leaving ability of bromide and minimal steric hindrance at the electrophilic site."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C2CCCCC2)(N1CCCC1)(CCc2ccc(OC)cc2)[OH2+]","step_weight": 0,"rationale": "Water, activated by the iminium's strong electrophilicity, adds to the iminium carbon due to resonance stabilization of the positive charge on nitrogen, facilitating nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C2CCCCC2)([NH+]1CCCC1)(CCc2ccc(OC)cc2)O","step_weight": 0,"rationale": "Proton transfer from the oxonium to nitrogen relieves positive charge on oxygen, stabilizing the intermediate and preparing for C–N bond cleavage."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C2CCCCC2)(=[OH+])CC(c2ccc(OC)cc2)","step_weight": 0,"rationale": "Elimination of the amine occurs as nitrogen's lone pair reforms, expelling it as a leaving group; the driving force is formation of the strong C=O double bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C2CCCCC2)CC(c2ccc(OC)cc2)","step_weight": 0,"rationale": "Deprotonation of the protonated carbonyl restores neutrality, favored by the stability of the neutral ketone under aqueous conditions."}],"description": "The enamine acts as a nucleophile toward the alkyl halide via SN2, forming an iminium intermediate. Subsequent aqueous hydrolysis converts the iminium to a carbonyl through nucleophilic addition of water, proton transfers, and elimination, yielding the ketone product."}
{"reaction_id": "NR-237_1-Cc1ccccc1_2-C1CCCCC1_3-c1ccc(OC)cc1_4-C1CCCCC1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["Cc1ccccc1N=[N+]=[N-]","P(C1CCCCC1)(c1ccc(OC)cc1)(C1CCCCC1)"],"products_smiles": ["Cc1ccccc1N","O=P(C1CCCCC1)(c1ccc(OC)cc1)(C1CCCCC1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "Cc1ccccc1N=[N+]=N[P+](C1CCCCC1)(c1ccc(OC)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "Cc1ccccc1N1N=NP1(C1CCCCC1)(c1ccc(OC)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "Cc1ccccc1N=P(C1CCCCC1)(c1ccc(OC)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Cc1ccccc1[NH+]=P(C1CCCCC1)(c1ccc(OC)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "Cc1ccccc1N[P](O)(C1CCCCC1)(c1ccc(OC)cc1)(C1CCCCC1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "Cc1ccccc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
